US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]ethane-1,2-diamine
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and ethane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 397, 1H NMR (400 MHz, CD3OD) δ ppm 7.86 (m, 2 H), 7.65-7.50 (m, 2 H), 7.42-7.30 (m, 2 H), 7.28-7.16 (m, 1 H), 6.10-5.95 (m, 1 H), 5.09 (brs, 2 H), 3.64-3.42 (m, 2 H), 3.15-2.98 (m, 2 H), 2.84 (s, 2 H), 2.35 (s, 3 H), 1.20 (s, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | ethane-1,2-diamine | C(CN)N | C2H8N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]ethane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCN)C)=O | C21H24N4O2S
